US06428813B1
5-Methyl-2-thiophenecarbaldehyde (2.6 g, 0.1 M), hydroxylamine hydrochloride (8.3 g, 0.12 M), and sodium acetate (9.8 g, 0.12 M) were added to. acetic acid (50 ml) and the mixture was refluxed for 13 to 15 hours. After disappearance of the starting material was confirmed by high performance liquid chromatography (HPLC retention time ca 13 min.), the reaction mixture was concentrated under reduced pressure to about one-half of its volume. To this concentrate was added concentrated hydrochloric acid (100 ml) and the reaction was allowed to proceed at 60° C. for 4 hours. The reaction mixture was then diluted with 100 ml of water and stirred under ice-cooling for 30 minutes. The resulting crystals were recovered by filtration and rinsed with 100 ml of iced water to provide 5-methyl-2-thiophenecarboxamide (HPLC retention time ca 4 min.)

reactant | 5-Methyl-2-thiophenecarbaldehyde | 0.1 M, 2.6 g | CC1=CC=C(S1)C=O | C6H6OS
reactant | hydroxylamine hydrochloride | 0.12 M, 8.3 g | Cl.NO
reactant | sodium acetate | 0.12 M, 9.8 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-methyl-2-thiophenecarboxamide | yield 82% | CC1=CC=C(S1)C(=O)N | C6H7NOS
